US04230635
4-acetamido-4'-(hexafluoro-2-hydroxy-2-propyl)benzenesulfonanilide
To 8.5 g (36 mmole) 4-(hexafluoro-2-hydroxy-2-propyl)aniline in 30 ml pyridine, add 7.8 g (30 mmole) N-acetylsulfanilyl chloride. Stir 2 hours, pour onto ice and acidify with concentrated HCl. Extract with Et2O, and wash this with 1N NaOH. Acidify the aqueous layer, extract with Et2O and dry and concentrate. Recrystallize from Et2O-hexane to give the product; m.p. 198°-200° C.

reactant | 4-(hexafluoro-2-hydroxy-2-propyl)aniline | 36 mmole, 8.5 g | FC(C(C(F)(F)F)(O)C1=CC=C(N)C=C1)(F)F | C9H7F6NO
reactant | N-acetylsulfanilyl chloride | 30 mmole, 7.8 g | C(C)(=O)NC1=CC=C(S(=O)(=O)Cl)C=C1 | C8H8ClNO3S
reactant | HCl | Cl | ClH
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 4-acetamido-4'-(hexafluoro-2-hydroxy-2-propyl)benzenesulfonanilide | C(C)(=O)NC1=CC=C(C=C1)S(=O)(=O)NC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C17H14F6N2O4S
